US09376443B2
7-(5-methylfuran-2-yl)-3-(6-[2,2,2-trifluoroethyl]oxymethylpyrid-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-amine
Prepared from 3-(6-bromomethylpyridin-2-ylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine and trifluoroethanol by the method described in Example 32.

reactant | 3-(6-bromomethylpyridin-2-ylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | BrCC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC(=CC2)C)N | C16H14BrN7O
reactant | trifluoroethanol | C(C(F)(F)F)O | C2H3F3O
product | 7-(5-methylfuran-2-yl)-3-(6-[2,2,2-trifluoroethyl]oxymethylpyrid-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-amine | CC1=CC=C(O1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)COCC(F)(F)F | C18H16F3N7O2
